US05625080
The method used to prepare 2.5-dimethylmandelic acid was similar to that described by Riebsomer and Irvine (Org.Synth.,Coll.Vol.3, p.327). Thus, ethyl oxomalonate (25 parts) in para-xylene (38 parts) was stirred at 0°-5° C. under a nitrogen atmosphere as anhydrous stannic chloride (46 parts) was charged over 20 minutes. The mixture was kept mobile by addition of further para-xylene (43 parts) and allowed to warm to ambient temperature. After 3 hours stirring, the mixture was quenched on a mixture of ice and 10M hydrochloric acid and extracted into diethyl ether. The separated organic phase was washed with water, dried over magnesium sulfate, filtered and the solvent was evaporated under reduced pressure. The crude brown oil (31 parts) was then distilled under vacuum to give diethyl (2,5-dimethylphenyl)-hydroxymalonate (26 parts). 1Hnmr, 13Cnmr and mass spectra and micro-analysis were all consistent with the structure.

reactant | 2.5-dimethylmandelic acid | CC1=C(C(C(=O)O)O)C=C(C=C1)C | C10H12O3
reactant | ethyl oxomalonate | O=C(C(=O)OCC)C(=O)[O-]
reactant | para-xylene | C1(=CC=C(C=C1)C)C | C8H10
product | diethyl (2,5-dimethylphenyl)-hydroxymalonate | CC1=C(C=C(C=C1)C)C(C(=O)OCC)(C(=O)OCC)O | C15H20O5
